US09447106B2
Step 3: 7-(2-(Methylamino)phenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile
To a solution of 7-(2-(methylamino)phenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile (250 mg, 0.6 mmol) in 10 mL EtOH was added NaBH4 (100 mg). The reaction mixture was stirred at it for 15 hr, and then concentrated to remove EtOH. The residue was partitioned between 30 mL of water and 30 mL of EA. The organic layer was concentrated. The residue was dissolved in 10 mL of MeOH, followed by 10% w/w Pd/C (50 mg). The reaction mixture was stirred at it under 1 atm. of H2 for 15 hr. Then, the mixture was filtered. The filtrate was concentrated and purified by the flash chromatography (PE/EA=1/1) to give the product as a white solid (144 mg, yield: 56.5%). MS (ESI) m/e [M+1]+ 421.9.

reactant | 7-(2-(methylamino)phenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.6 mmol, 250 mg | CNC1=C(C=CC=C1)C1=CC=NC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C26H19N5O
reactant | NaBH4 | 100 mg | [BH4-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 7-(2-(Methylamino)phenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 144 mg, yield: 56.5% | CNC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C26H23N5O
